US06635771B2
To 4-(2-{1-benzhydryl-2-[2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-5-chloro-1H-indol-3-yl}-ethylamino)-benzoic acid methyl ester (3.88 mmol) in THF (25 mL) at 0° C. was added a mixture of HOAc:1M TBAF (in THF) (2.3 mL:5.8 mL) and the reaction mixture was allowed to stir at rt for 18 h. Extractive workup followed by trituration with 5%EtOAc/hex gave the desired 4-{2-[1-Benzhydryl-5-chloro-2-(2-hydroxy-ethyl)-1H-indol-3-yl]-ethylamino}-benzoic acid methyl ester with slight impurity as an off-white solid (92%, over 3 steps).

reactant | 4-(2-{1-benzhydryl-2-[2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-5-chloro-1H-indol-3-yl}-ethylamino)-benzoic acid methyl ester | 3.88 mmol | COC(C1=CC=C(C=C1)NCCC1=C(N(C2=CC=C(C=C12)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C49H49ClN2O3Si
reactant | HOAc | CC(=O)O | C2H4O2
reactant | TBAF | 1M, 2.3 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4-{2-[1-Benzhydryl-5-chloro-2-(2-hydroxy-ethyl)-1H-indol-3-yl]-ethylamino}-benzoic acid methyl ester | COC(C1=CC=C(C=C1)NCCC1=C(N(C2=CC=C(C=C12)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1)CCO)=O | C33H31ClN2O3
